US04359420
285 mg (1 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate and 66 mg of potassium cyanide are heated to boiling under reflux for 24 hours in 10 ml of methanol. Then, the mixture is concentrated on a rotary evaporator, the residue is partitioned between water and chloroform, extracted twice with chloroform, the chloroform phase is dried over magnesium sulphate and evaporated. There is obtained methyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 212°-214° C. This product is uniform according to thin-layer chromatography.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 1 mmol, 285 mg | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | potassium cyanide | 66 mg | [C-]#N.[K+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OC | C14H13N3O3
